US05587379
Under a nitrogen atmosphere, a stirred solution of 10.1 grams (0.045 mole) of 3-bromocinnamic acid and 40 drops of concentrated sulfuric acid in 75 mL of ethanol was heated at reflux for about 19 hours. After this time the reaction mixture was concentrated under reduced pressure to a residual oil. The oil was dissolved in methylene chloride, and the solution was washed with 50 mL of water and then with 50 mL of an aqueous solution saturated with sodium bicarbonate. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding about 11.4 grams of ethyl 3-(3-bromophenyl)-2-propenoate. The NMR spectrum was consistent with the proposed structure.

reactant | 3-bromocinnamic acid | 0.045 mole, 10.1 grams | BrC=1C=C(C=CC(=O)O)C=CC1 | C9H7BrO2
reactant | ethanol | 75 mL | C(C)O | C2H6O
catalyst | sulfuric acid | 40 drops | S(O)(O)(=O)=O | H2O4S
product | ethyl 3-(3-bromophenyl)-2-propenoate | about 11.4 grams | BrC=1C=C(C=CC1)C=CC(=O)OCC | C11H11BrO2
